US08703742B2
tert-Butyl 3-(2-bromo-3-formylphenoxy)propylcarbamate
A mixture of 2-bromo-3-hydroxybenzaldehyde (5 g, 24.9 mmol), 3-(tert-butoxy carbonylamino)-propyl methanesulfonate (7.55 g, 30 mmol) and Cs2CO3 (24 g, 75 mmol) in DMF (60 mL) was stirred at 50° C. for 3 h and quenched with water (600 mL). The resulting mixture was extracted with EtOAc (3×60 mL) and the combined organic layers were washed with brine (60 mL), dried over anhydrous Na2SO4 and then concentrated in vacuo. The residue was purified by column chromatography on silica gel (PE/EtOAc=10/1) to give the product (7.2 g, yield 81%). 1H NMR (400 MHz, CDCl3) δ 10.43 (s, 1H), 7.53 (dd, J=7.8 Hz, 1.6 Hz, 1H), 7.37 (t, J=7.8 Hz, 1H), 7.12 (dd, J=8.2 Hz, 1.6 Hz, 1H), 5.16 (s, 1H), 4.15 (t, J=5.9 Hz, 2H), 3.42 (m, 2H), 2.10 (m, 2H), 1.44 (s, 9H); MS (ESI) m/z=358 [M+H]+.

reactant | 2-bromo-3-hydroxybenzaldehyde | 24.9 mmol, 5 g | BrC1=C(C=O)C=CC=C1O | C7H5BrO2
reactant | 3-(tert-butoxy carbonylamino)-propyl methanesulfonate | 30 mmol, 7.55 g | CS(=O)(=O)OCCCNC(=O)OC(C)(C)C | C9H19NO5S
reactant | Cs2CO3 | 75 mmol, 24 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(2-bromo-3-formylphenoxy)propylcarbamate | 7.2 g, yield 81% | BrC1=C(OCCCNC(OC(C)(C)C)=O)C=CC=C1C=O | C15H20BrNO4
